US07612055B2
j) (S)-2-Methyl-3-(3-methyl-5-vinyl-phenylmethanesulfonyl)-propionic acid example 15a
Potassium vinyltrifluoroborate (247 mg, 1.8 mmol), triethylamine (0.21 ml, 1.5 mmol) and [1,1′-bis(diphenylphosphino-κP)ferrocene]dichloro-palladium (24 mg) are added to (S)-3-(3-bromo-5-methyl-phenylmethanesulfonyl)-2-methyl-propionic acid (0.5 g, 1.5 mmol) in 25 ml propanol. The mixture is stirred under argon for 2.5 hrs at reflux. After cooling to rt the mixture is diluted with EtOAc, washed with 0.5 N aqueous hydrochloric acid and brine, dried over magnesium sulfate, and the solvents are evaporated. The residue is purified by chromatography on silica gel (flashmaster, DCM to DCM/methanol 9/1) followed by crystallization from DCM/diethyl ether/hexane to give the title compound as off-white crystals.

reactant | Potassium vinyltrifluoroborate | 1.8 mmol, 247 mg | C(=C)[B-](F)(F)F.[K+]
reactant | triethylamine | 1.5 mmol, 0.21 ml | C(C)N(CC)CC | C6H15N
reactant | (S)-3-(3-bromo-5-methyl-phenylmethanesulfonyl)-2-methyl-propionic acid | 1.5 mmol, 0.5 g | BrC=1C=C(C=C(C1)C)CS(=O)(=O)C[C@H](C(=O)O)C | C12H15BrO4S
solvent | propanol | 25 ml | C(CC)O | C3H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-2-Methyl-3-(3-methyl-5-vinyl-phenylmethanesulfonyl)-propionic acid | C[C@@H](C(=O)O)CS(=O)(=O)CC1=CC(=CC(=C1)C=C)C | C14H18O4S
